US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.0 g.), conc. hydrochloric acid (1.1 g.), methanol (16 ml.) and tetrahydrofuran (10 ml.) was stirred at room temperature for 2 hours. After methanol was removed in vacuo, the residue was dissolved in a sodium bicarbonate aqueous solution and adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorous pentoxide to give 7-[2-(2-aminothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)-acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.6 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=CC(=C(C=C1)Br)O | C20H16BrN5O7S2
reactant | hydrochloric acid | 1.1 g | Cl | ClH
reactant | methanol | 16 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(4-bromo-3-hydroxybenzyloxyimino)-acetamido]-3-cephem-4-carboxylic acid | 1.6 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=CC(=C(C=C1)Br)O | C19H16BrN5O6S2
